US07456200B2
1-Cyano-3-ethylbenzene
Argon was bubbled into a solution of 1-bromo-3-ethylbenzene (2.5 g, 13.5 mmol) in DMF (37 ml) for 10 min. and then zinc cyanide (1.75 g, 14.9 mmol) and tetrakis(triphenylphosphine)palladium(0) (1.56 g, 1.35 mmol) were added. After stirring at 80° C. overnight the reaction mixture was diluted with ethyl acetate (35 ml) then filtered through celite to remove the precipitate. The filtrate was washed with water (3×), saturated brine, dried over anhydrous sodium sulfate, filtered and concentrated. The product was purified by flash column chromatography using 2% ethyl acetate in hexane affording a colorless liquid (1.42 g). GC-MS (M+): 131.18.

reactant | 1-bromo-3-ethylbenzene | 13.5 mmol, 2.5 g | BrC1=CC(=CC=C1)CC | C8H9Br
reactant | DMF | 37 ml | CN(C)C=O | C3H7NO
solvent | ethyl acetate | 35 ml | C(C)(=O)OCC | C4H8O2
catalyst | zinc cyanide | 14.9 mmol, 1.75 g | [C-]#N.[Zn+2].[C-]#N
catalyst | tetrakis(triphenylphosphine)palladium(0) | 1.35 mmol, 1.56 g | C=1C=CC(=CC1)[P](C=2C=CC=CC2)(C=3C=CC=CC3)[Pd]([P](C=4C=CC=CC4)(C=5C=CC=CC5)C=6C=CC=CC6)([P](C=7C=CC=CC7)(C=8C=CC=CC8)C=9C=CC=CC9)[P](C=1C=CC=CC1)(C=1C=CC=CC1)C=1C=CC=CC1
product | 1-Cyano-3-ethylbenzene | C(#N)C1=CC(=CC=C1)CC | C9H9N
